US08729078B2
To a solution of 6-tert-butyl-8-fluorophthlazine-1(2H)-one (prepared according to US2010/0222325) 36 mg, 0.16 mmol) and 1-(3-bromo-2-formylphenyl)-1H-indole-3-carbonitrile (59 mg, 0.18 mmol) in dry dimethylsulfoxide (1.8 mL) was added sodium bicarbonate (31 mg, 0.36 mmol) under an argon atmosphere. Next copper iodide (35 mg, 0.18 mmol) was added and the mixture was heated to 110° C. for 2 hours. The reaction was cooled to ambient and taken up in water (40 ml) and dichloromethane (40 ml). The material was filtered through a plug of celite, rinsing well with dichloromethane. The filtrate was transferred to a reparatory funnel and the dichloromethane phase was collected. This was washed with a 50% solution of diluted brine (40 ml). The organic phase was collected and the aqueous phases back extracted with dichloromethane (2×35 ml). The dichloromethane phases were combined, dried (MgSO4), filtered and stripped. Then the identical reaction was repeated on a larger scale using 1-(3-bromo-2-formylphenyl)-1H-indole-3-carbonitrile (290 mg, 0.89 mmol) and similar scaled amounts of the reagents described above and under identical procedure and work up. The crude from the two reactions was combined and purified by HPLC (silica gel, eluting with 100% CH2Cl2 to 1% MeOH/CH2Cl2) to provide a semi-pure product. The material was further purified by preparative thin layer chromatography (3 plates, eluting with 0.5% MeOH/CH2Cl2 and then re-eluting with 0.75% and then 1% MeOH/CH2Cl2). The product band was collected to provide 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3 carbonitrile as a yellow foamy solid. (384 mg, 77% yield). LC/MS calcd for C28H21FN4O2 (m/e) 464.49, obsd 465.0 (M+H, ES+): 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.42 (s, 9H) 7.24-7.32 (m, 1H) 7.34-7.41 (m, 2H) 7.46-7.60 (m, 3H) 7.75 (d, J=7.55 Hz, 1H) 7.81 (s, 1H) 7.83-7.87 (m, 1H) 7.90 (t, J=7.96 Hz, 1H) 8.25 (d, J=2.64 Hz, 1H) 9.56 (s, 1H).

reactant | 6-tert-butyl-8-fluorophthlazine-1(2H)-one | 0.16 mmol, 36 mg | C(C)(C)(C)C=1C=C2C=NNC(C2=C(C1)F)=O | C12H13FN2O
reactant | 1-(3-bromo-2-formylphenyl)-1H-indole-3-carbonitrile | 0.18 mmol, 59 mg | BrC=1C(=C(C=CC1)N1C=C(C2=CC=CC=C12)C#N)C=O | C16H9BrN2O
reactant | sodium bicarbonate | 0.36 mmol, 31 mg | C([O-])(O)=O.[Na+]
reactant | 1-(3-bromo-2-formylphenyl)-1H-indole-3-carbonitrile | 0.89 mmol, 290 mg | BrC=1C(=C(C=CC1)N1C=C(C2=CC=CC=C12)C#N)C=O | C16H9BrN2O
solvent | dimethylsulfoxide | 1.8 mL | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | copper iodide | 0.18 mmol, 35 mg | [Cu](I)I
product | 1-(3-(6-tert-butyl-8-fluoro-1-oxophthalazin-2(1H)-yl)-2-formylphenyl)-1H-indole-3 carbonitrile | 77% yield | C(C)(C)(C)C=1C=C2C=NN(C(C2=C(C1)F)=O)C=1C(=C(C=CC1)N1C=C(C2=CC=CC=C12)C#N)C=O | C28H21FN4O2
